US09120749B2
(6-bromo-4-(3-((dimethylamino)methyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with 3-((dimethylamino)methyl)aniline (226 mg, 1.5 mmol) to afford the desired product (343 mg, 810%) as a yellow solid: ESI MS m/z 424 [C22H22BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 3-((dimethylamino)methyl)aniline | 1.5 mmol, 226 mg | CN(C)CC=1C=C(N)C=CC1 | C9H14N2
product | (6-bromo-4-(3-((dimethylamino)methyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone | 343 mg, 810% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CN(C)C | C22H22BrN3O
